US06291464B1
To a solution of 1-acetyl-4-aminopiperazine dihydrochloride (300 mg) in ethanol (10 ml) and triethylamine (0.78 ml) was added p-fluorobenzaldehyde (0.164 ml), and the mixture was heated at 80° C. for 2 hours. After removal of the solvent in vacuo, the residue was triturated with ethyl acetate and water. The organic layer was separated, dried over magnesium sulfate, and concentrated. The residue was crystallized from diisopropyl ether to give 1-acetyl-4-(4-fluorobenzylidene)aminopiperazine (0.15 g).

reactant | 1-acetyl-4-aminopiperazine dihydrochloride | 300 mg | Cl.Cl.C(C)(=O)N1CCN(CC1)N
reactant | p-fluorobenzaldehyde | 0.164 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | triethylamine | 0.78 ml | C(C)N(CC)CC | C6H15N
product | 1-acetyl-4-(4-fluorobenzylidene)aminopiperazine | 0.15 g | C(C)(=O)N1CCN(CC1)N=CC1=CC=C(C=C1)F | C13H16FN3O
